US07691882B2
2-Chloro-5-(4-(2-nitro-ethyl)-benzyl)-furan
To a mixture of 4-(5-chloro-furan-2-ylmethyl)-benzaldehyde (270 mg, 1.2 mmol) described in Manufacturing Example 62-1-4 and acetic acid (3 mL) were added nitromethane (500 μL, 9.3 mmol) and ammonium acetate (290 mg, 3.7 mmol) at room temperature, which was stirred for 3 hours at 100° C. The reaction mixture was cooled to room temperature, and extracted by addition of water and ethyl acetate. This organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and was concentrated under a reduced pressure. To a mixture of acetic acid (0.6 mL) and dimethyl sulfoxide (10 mL) was added sodium borohydride (76 mg, 2.0 mmol) at room temperature while cooling appropriately, which was stirred for 10 minutes at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride. The organic layer was concentrated under a reduced pressure, and the residue was purified by neutral silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (210 mg, 62%).

reactant | 4-(5-chloro-furan-2-ylmethyl)-benzaldehyde | 1.2 mmol, 270 mg | ClC1=CC=C(O1)CC1=CC=C(C=O)C=C1 | C12H9ClO2
reactant | nitromethane | 9.3 mmol, 500 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 3.7 mmol, 290 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 2.0 mmol, 76 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-5-(4-(2-nitro-ethyl)-benzyl)-furan | 210 mg, 62% | ClC=1OC(=CC1)CC1=CC=C(C=C1)CC[N+](=O)[O-] | C13H12ClNO3
